US05693636
a) 2-[[(4-methoxyphenyl)methyl]thio]-5-nitrobenzoic acid
Sodium hydride (60% dispersion in mineral oil, 3.6 g, 0.088 mol) was added to a cold solution of 2-chloro-5-nitrobenzoic acid (16.1 g, 0.08 mol) in dimethylformamide (200 mL) and the mixture was stirred for 5 min. The cold mixture was treated dropwise with a solution of 4-methoxy-α-toluenethiol (13.2 g, 0.08 mol) in dimethylformamide (80 mL) and stirred at room temperature for 16 h. The mixture was concentrated in vacuo, and the residue was diluted with water and acidified with dilute hydrochloric acid to pH 1. The resulting precipitate was filtered, washed with water and azeotroped to dryness from a mixture of methylene chloride-toluene. The residue was suspended in ethyl ether, filtered and washed with ethyl ether to give the title compound as a yellow solid (16 g, 63%), which was used without further purification. Mp 200°-204° C.

reactant | Sodium hydride | 0.088 mol, 3.6 g | [H-].[Na+]
reactant | 2-chloro-5-nitrobenzoic acid | 0.08 mol, 16.1 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-methoxy-α-toluenethiol | 0.08 mol, 13.2 g | COC1=CC=C(C=C1)CS | C8H10OS
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 2-[[(4-methoxyphenyl)methyl]thio]-5-nitrobenzoic acid | 16 g, 63% | COC1=CC=C(C=C1)CSC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C15H13NO5S
